US09034866B2
Synthesis of ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
To a solution ethyl 9-iodo-4-oxo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (3 g, 7.53 mmol, 1.00 equiv) in dichloromethane (50 mL) was added trimethylalumane (2.0M in toluene) (4.5 mL, 1.20 equiv) at −10° C. After being stirred for 2 hours at −10° C. the resulting solution was diluted with 20 mL of dichloromethane, washed with saturated ammonia chloride, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:2) to give 2.4 g (77%) of the titled compound as a light yellow solid; LC-MS (ES, m/z): 415 [M+H]+.

reactant | ethyl 9-iodo-4-oxo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 7.53 mmol, 3 g, 1.00 equiv | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)OCC)=O)C=C1 | C14H11IN2O4
reactant | trimethylalumane | 2.0M, 4.5 mL, 1.20 equiv | C[Al](C)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 2.4 g, 77% | OC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC)C | C15H15IN2O4
